US07652049B2
To a solution of 1-(4-chlorophenyl)-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethanol (40 mg, 0.08 mmol) in CH2Cl2 (2 mL) was added dibenzyl dicarbonate (24 mg, 0.08 mmol). The reaction was stirred at room temperature for 24 hours and then poured into H2O (15 mL). The resultant mixture was extracted with EtOAc (50 mL) and the organic layer was washed with brine (15 mL), dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography with 5% to 60% EtOAc/hexanes afforded benzyl [2-(4-chlorophenyl)-2-hydroxyethyl]{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate. Rf=0.20 (25% EtOAc/hexanes). LCMS=612.2 (M+1)+. 1H NMR (C6D6, 600 MHz, peaks broadened and/or doubled; rotamers and/or atropisomers present) δ 7.98-6.45 (m, 15H), 5.00-3.46 (m, 6H), 3.20-2.96 (m, 5H), 2.72 (m, 1H), 1.20-1.15 (m, 6H).

reactant | 1-(4-chlorophenyl)-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethanol | 0.08 mmol, 40 mg | ClC1=CC=C(C=C1)C(CNCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)O | C26H27ClF3NO2
reactant | dibenzyl dicarbonate | 0.08 mmol, 24 mg | C(=O)(OCC1=CC=CC=C1)OC(=O)OCC1=CC=CC=C1 | C16H14O5
reactant | H2O | 15 mL | O | H2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | benzyl [2-(4-chlorophenyl)-2-hydroxyethyl]{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | ClC1=CC=C(C=C1)C(CN(C(OCC1=CC=CC=C1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)O | C34H33ClF3NO4
